US07956070B2
Step 1: 5-(Trifluoromethyl)-1H-1,2,3-triazole-4-carboxylic acid
Ethyl 5-(trifluoromethyl)-1H-1,2,3-triazole-4-carboxylate (0.312 g) was stirred in aqueous N sodium hydroxide (3.8 mL) and heated under reflux for 90 min. The cooled solution was acidified with aqueous hydrochloric acid and extracted with ethyl acetate. The extracts were washed with brine then dried and evaporated to leave a colourless solid (0.226 g).

reactant | Ethyl 5-(trifluoromethyl)-1H-1,2,3-triazole-4-carboxylate | 0.312 g | FC(C1=C(N=NN1)C(=O)OCC)(F)F | C6H6F3N3O2
reactant | sodium hydroxide | 3.8 mL | [OH-].[Na+]
reactant | hydrochloric acid | Cl | ClH
product | 5-(Trifluoromethyl)-1H-1,2,3-triazole-4-carboxylic acid | 0.226 g | FC(C1=C(N=NN1)C(=O)O)(F)F | C4H2F3N3O2
